US06444685B1
4-{4-[(2S)-3-(9H-Carbazol-4-yloxy)-2-hydroxy-propylamino]-piperidin-1-yl}-N-(3,4-dimethoxy-phenyl)-benzenesulfonamide
The title compound was prepared from 1-Amino-3-(9H-carbazol-4-yloxy)-propan-2-ol and Reference Example 73, N-(3,4-dimethoxy-phenyl)-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide, according to the procedure of Example 1 as an off-white solid; mp 58-64° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.20-1.40 (m, 2H), 1.80-1.95 (m, 2H), 2.60-2.90 (m, 5H), 3.62 (s, 3H), 3.64 (s, 3H), 3.60-3.80 (m, 2H), 4.00-4.20 (m, 3H), 6.40-7.50 (m, 12H), 7.95 (s, 1H), 8.20 (d, 1H), 11.30 (s, 1H); MS (ES) m/z: 631.1 (MH+); HRMS Calcd. for C34H39N4O6S (MH+): 631.2590. Found: 631.2595.

reactant | 1-Amino-3-(9H-carbazol-4-yloxy)-propan-2-ol | NCC(COC1=CC=CC=2NC3=CC=CC=C3C12)O | C15H16N2O2
reactant | N-(3,4-dimethoxy-phenyl)-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide | COC=1C=C(C=CC1OC)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C19H22N2O5S
product | 4-{4-[(2S)-3-(9H-Carbazol-4-yloxy)-2-hydroxy-propylamino]-piperidin-1-yl}-N-(3,4-dimethoxy-phenyl)-benzenesulfonamide | C1=CC=C(C=2C3=CC=CC=C3NC12)OC[C@H](CNC1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=C(C=C1)OC)OC)O | C34H38N4O6S
